US07662825B2
b) 2,3-Dichloro-N-[5-(2,4-difluorophenyl)-3-methoxy-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 1 using 5-(2,4-difluorophenyl)-3-methoxy-2-pyrazinamine (0.2 g) and 2,3-dichlorobenzenesulphonyl chloride (0.2 g). Yield 0.06 g.

reactant | 5-(2,4-difluorophenyl)-3-methoxy-2-pyrazinamine | 0.2 g | FC1=C(C=CC(=C1)F)C=1N=C(C(=NC1)N)OC | C11H9F2N3O
reactant | 2,3-dichlorobenzenesulphonyl chloride | 0.2 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-[5-(2,4-difluorophenyl)-3-methoxy-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OC)C1=C(C=C(C=C1)F)F | C17H11Cl2F2N3O3S
